US07423159B2
A mixture of 3-(4-nitrophenyl)propanamide (0.50 g), 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (0.81 g) and pyridine (5 mL) was stirred at 50° C. for 15 hrs. The reaction mixture was concentrated, and 1N hydrochloric acid was added to the obtained residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-(4-nitrophenyl)propanethioamide as colorless crystals (0.40 g, yield 73%) from a fraction eluted with hexane-ethyl acetate (2:1-1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 157-158° C.

reactant | 3-(4-nitrophenyl)propanamide | 0.50 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)N | C9H10N2O3
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.81 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-nitrophenyl)propanethioamide | 0.40 g, yield 73% | [N+](=O)([O-])C1=CC=C(C=C1)CCC(N)=S | C9H10N2O2S
